US06610723B2
2-(4-chloro-3-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
This compound was prepared in a modification of the literature known method (Y. Masuda, M. Murata, S. Watanabe, J. Org. Chem., 1997, 62, 6458-9). To a flask containing KOAc (3.4 g, 34.7 mmol), PdCl2(PPh3)2 (234 mg, 0.34 mmol) and bis(pinacolato)diboron (3.2 g, 12.7 mmol) was added a solution of 5-bromo-2-chloro-benzotrifluoride (3 g, 11.5 mmol) in dioxane. This mixture was heated to 100° C. under an argon atmosphere for 3 h. After cooling, AcOEt was added then the organic mixture was washed with saturated NaCl solution then dried with Na2SO4 and the solvent evaporated. The residue was chromatographed (silica, elution with hexane/AcOEt=9:1) to afford the title compound (2.35 g, 66%) as a light brown solid. MS: m/e=306.1 (M+).

reactant | KOAc | 34.7 mmol, 3.4 g | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 12.7 mmol, 3.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 5-bromo-2-chloro-benzotrifluoride | 11.5 mmol, 3 g | BrC=1C=CC(=C(C1)C(F)(F)F)Cl | C7H3BrClF3
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.34 mmol, 234 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-chloro-3-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 2.35 g, 66% | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(F)(F)F | C13H15BClF3O2
